US07414063B2
Isoquinoline-5-sulfonyl chloride hydrochloride
Anhydrous DMF (1.5 mL) is added dropwise to a stirred suspension of isoquinoline-5-sulfonic acid (28.3 g, 135 mmol) in thionyl chloride (150 mL, 2.06 mole) at ambient temperature under nitrogen. The resultant mixture is heated to reflux for 2.5 hours. After being cooled to ambient temperature, the mixture is concentrated under vacuum to give a yellowish powder. The powder is suspended in dry CH2Cl2 (200 mL), sonicated, filtered and dried at 40° C. under vacuum to give 29.2 g (111 mmol, 82% yield) of the title compound. 1H NMR (TFA-d1): δ8.48 (t, J=7.9 Hz, 1H), 9.13-9.14 (m, 2H), 9.29 (d, J=7.9 Hz, 1H), 9.57 (d, J=7.0 Hz, 1H), 10.26 (s, 1H).

reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | isoquinoline-5-sulfonic acid | 135 mmol, 28.3 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H7NO3S
reactant | thionyl chloride | 2.06 mole, 150 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Isoquinoline-5-sulfonyl chloride hydrochloride | 111 mmol, 29.2 g, 82% yield | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | InChI=1S/C9H6ClNO2S.ClH/c10-14(12,13)9-3-1-2-7-6-11-5-4-8(7)9;/h1-6H;1H
